US04771051
6-cyano-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline
To 140 mg 6-bromo-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline in 5 ml dimethyl formamide (DMF) 40 mg cuprous cyanide was added. Thereafter further 5 ml DMF was added and the resulting mixture was heated to 130°-150° C. for 60 minutes with stirring. To this mixture 110 mg sodium cyanide in 5 ml water was added and thereafter further 30 ml water. The resulting mixture was extracted with 30 ml ethyl acetate and thereafter four times with 20 ml ethyl acetate. The combined organic phase was washed with water and dried with calcium chloride. Evaporation in vacuo gave 24 mg of the title compound. M.p. 115°-125° C.

reactant | 6-bromo-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline | 140 mg | BrC1=C2C(N(C=3N(C2=CC=C1)C=NC3C3=NOC(=N3)C3CC3)C)=O | C16H12BrN5O2
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethyl formamide | 5 ml, 40 mg | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | 6-cyano-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline | 24 mg | C(#N)C1=C2C(N(C=3N(C2=CC=C1)C=NC3C3=NOC(=N3)C3CC3)C)=O | C17H12N6O2
